US04102896
Activated zinc dust (15.0 g) was added to a stirred solution of 3-chloro-5,5-dimethylcyclohex-2-enone (9.0 g) and potassium iodide (7.5 g) in methanol (50 ml). After stirring for a period of 18 hours the mixture was filtered and the filtrate concentrated by evaporation under reduced pressure. The residue was mixed with dilute (8% w/v) hydrochloric acid and extracted with diethyl ether (2 × 100 ml). The combined ethereal extracts were washed with water and dried over anhydrous magnesium sulphate. After removal of the ether by evaporation under reduced pressure the residual oil was purified by distillation. 5,5-Dimethylcyclohex-2-enone was obtained as a pale yellow oil, b.p. 75° C./17 mm Hg.

reactant | 3-chloro-5,5-dimethylcyclohex-2-enone | 9.0 g | ClC1=CC(CC(C1)(C)C)=O | C8H11ClO
reactant | potassium iodide | 7.5 g | [I-].[K+]
solvent | methanol | 50 ml | CO | CH4O
catalyst | zinc | 15.0 g | [Zn] | Zn
product | 5,5-Dimethylcyclohex-2-enone | CC1(CC=CC(C1)=O)C | C8H12O
